*$
*//-----------------------------------------------------------------------//
*//   Part        : EMHS250ARA681MJA0G
*//   Date        : 2024/2/22
*//   Simulator   : P-Spice
*//   Temperature : 20deg-C/-40deg-C/125deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHS250ARA681MJA0G_20deg-C 1 2

C1 4 2 1.13e-04
C2 5 2 3.28e-04
C3 6 2 1.99e-04
R1 3 4 8.53e-02
R2 4 5 3.63e-02
R3 5 6 1.49e-01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMHS250ARA681MJA0G_-40deg-C 1 2

C1 4 2 3.10e-07
C2 5 2 6.46e-05
C3 6 2 4.87e-04
R1 3 4 6.23e-01
R2 4 5 3.65e-01
R3 5 6 4.86e-01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMHS250ARA681MJA0G_125deg-C 1 2

C1 4 2 2.84e-04
C2 5 2 3.91e-04
C3 6 2 7.02e-05
R1 3 4 3.24e-02
R2 4 5 1.44e-02
R3 5 6 1.62e+00
L1 1 3 4.50e-09

.ENDS
*$